Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
ADMISSION LABS:
==============
___ 11:46AM BLOOD WBC-12.9* RBC-4.68 Hgb-15.1 Hct-45.9 
MCV-98 MCH-32.3* MCHC-32.9 RDW-13.2 RDWSD-47.3* Plt ___
___ 11:46AM BLOOD Neuts-76.5* Lymphs-17.4* Monos-4.7* 
Eos-0.4* Baso-0.6 Im ___ AbsNeut-9.83* AbsLymp-2.23 
AbsMono-0.61 AbsEos-0.05 AbsBaso-0.08
___ 11:46AM BLOOD Plt ___
___ 11:46AM BLOOD Glucose-114* UreaN-19 Creat-1.4* Na-145 
K-4.6 Cl-102 HCO3-25 AnGap-18
___ 11:46AM BLOOD CK(CPK)-365*
___ 11:46AM BLOOD CK-MB-11* MB Indx-3.0
___ 11:46AM BLOOD Calcium-9.6 Phos-4.7* Mg-2.0
___ 09:19PM BLOOD Triglyc-111 HDL-43 CHOL/HD-4.7 
LDLcalc-139*

PERTINENT LABS:
=============
___ 11:46AM BLOOD CK-MB-11* MB Indx-3.0
___ 11:46AM BLOOD cTropnT-0.07*
___ 02:55PM BLOOD cTropnT-0.46*
___ 09:19PM BLOOD CK-MB-34* cTropnT-0.96*
___ 04:10AM BLOOD CK-MB-27* cTropnT-0.77*

DISHCARGE LABS:
==============
___ 04:10AM BLOOD WBC-10.6* RBC-4.19* Hgb-13.4* Hct-41.6 
MCV-99* MCH-32.0 MCHC-32.2 RDW-13.4 RDWSD-49.1* Plt ___
___ 04:10AM BLOOD Plt ___
___ 04:10AM BLOOD ___ PTT-55.0* ___
___ 04:10AM BLOOD Glucose-147* UreaN-18 Creat-1.0 Na-141 
K-4.2 Cl-104 HCO3-24 AnGap-13
___ 04:10AM BLOOD CK-MB-27* cTropnT-0.77*
___ 04:10AM BLOOD Calcium-8.4 Phos-3.8 Mg-2.0

IMAGING:
==============
CXR ___:
"Lungs are low volume with bibasilar atelectasis.  Heart size is 
normal.  There
is no pleural effusion.  No pneumothorax is seen."

___ ___ Ultrasound ___:
"IMPRESSION: 
No evidence of deep venous thrombosis in the right or left lower 
extremity
veins."

TTE ___:
"IMPRESSION: Normal left ventricular wall thickness and 
biventricular cavity sizes and global biventricular systolic 
function. No significant valvular disease."

 
Brief Hospital Course:
TRANSITIONAL ISSUES:
==================
[] New medications: Aspirin 81mg, atorvastatin 20mg, metoprolol 
succinate 25mg

[] Cardiology:
- consider outpatient catheterization to assess coronaries and 
indications for reperfusion
- patient will need optimization of medical therapies including 
increase in atorvastatin to 80mg if possible

[] PCP:
- ___ will need optimization of medications for presumed CAD

# CODE STATUS: Full (presumed)
# CONTACT: ___ (wife): ___

SUMMARY STATEMENT
==================
Mr. ___ is a ___ with HLD who presented to ___ after 
developing syncope after a half-marathon run, found to have ECG 
with hyperacute T waves in the anterior leads and 
lateral/inferior ST depressions with a troponin that peaked at 
0.96 ___s a CK-MB that peaked at 34, concerning for Type I 
NSTEMI. His course was complicated by ___, which improved with 
fluids. ___ underwent focused TTE for assessment of LV function, 
which demonstrated normal LV wall thickness and biventricular 
cavity sizes and global biventricular systolic function without 
significant valvular disease. ___ was started on a heparin drip 
as well as aspirin 81mg with a planned cardiac catheterization, 
however, the patient elected to leave without undergoing 
catheterization. ___ was discharged on ASA 81mg, atorvastatin 
20mg and metoprolol succinate 25mg PO daily and ___ will 
follow-up with Dr. ___ in the outpatient setting.

ACTIVE ISSUES:
===============
#NSTEMI
Previously had stress EKG ___ without ischemic symptoms or 
ischemic EKG changes, but subsequently presented with 
hypotension and syncope with ECG changes and troponin peak to 
0.96 ___s a CK-MB that peaked at 34. Although studies have 
demonstrated a rise in troponins after endurance racing in 
runners despite underlying heart disease (Circulation. 
___, the overall rise in this patient's troponin 
is higher than reported in the study. Especially given 
concomitant EKG findings, this was concerning for a type I 
NSTEMI. ___ was started on a heparin drip as well as ASA with a 
plan for catheterization. ___ had a TTE that did not reveal any 
focal hypokinesis. Despite recommendations to pursue 
catheterization, ___ elected to leave. ___ was sent with a script 
of atorvastatin, metoprolol and aspirin.

#SYNCOPE: patient with syncopal event in the setting of 
hypotension with concern for NSTEMI vs. hypovolemia. While ___ 
was hypovolemic, this was ultimately felt to be ___ known 
NSTEMI. His BPs improved prior to discharge and ___ had no 
further episodes of lightheadedness/dizziness. ___ was started on 
metoprolol succinate 25mg daily on discharge

___: Likely pre-renal in the setting of poor PO intake during
half-marathon effort, which improved with fluids to within 
normal limits.

#HLD
Patient previously preferred lifestyle modification, but given
ACS event ___ was initially started on 80mg atorvastatin, but ___ 
was transitioned to 20mg atorvastatin daily per patient request.

___ PAIN: Initial concern for potential DVT given syncope as 
above, but his ___ was negative for DVT. This was likely MSK 
pain in the setting of recent marathon.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. calcium carb-D3-mag cmb11-zinc ___ mg-unit-mg-mg 
oral DAILY 
2. krill oil 1,000-170-50-80 mg oral DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Vitamin D3 (cholecalciferol (vitamin D3)) 5,000 unit oral 
DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
once a day Disp #*30 Tablet Refills:*1 
2.  Atorvastatin 20 mg PO QPM 
RX *atorvastatin 20 mg 1 tablet(s) by mouth Every night Disp 
#*30 Tablet Refills:*1 
3.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth Every 
morning Disp #*30 Tablet Refills:*1 
4.  calcium carb-D3-mag cmb11-zinc ___ mg-unit-mg-mg 
oral DAILY  
5.  krill oil 1,000-170-50-80 mg oral DAILY  
6.  Multivitamins 1 TAB PO DAILY  
7.  Vitamin D3 (cholecalciferol (vitamin D3)) 5,000 unit oral 
DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
===================
NSTEMI

Secondary Diagnoses:
===================
Syncope
Acute Kidney Injury
Hyperlipidemia
Vitamin D deficiency

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because you had a heart attack  

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- You were given intravenous fluids because you were found to be 
dehydrated
- You were given a blood thinner to help treat and prevent 
further heart attacks
- You had an echo performed 
- We recommended that you undergo an examination of your heart 
with a procedure known as a catheterization, but you elected to 
not undergo catherization. You were counseled on the risks of 
leaving without undergoing this procedure
- You were started on several medications to treat your coronary 
disease

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Please continue to take your medications as prescribed
- Please follow-up with Dr. ___ in the outpatient 
setting 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  
Your ___ Team 

 
Followup Instructions:
___